US04873298
2,3-dihydroxypropyl methacrylate;
2-hydroxybutyl methacrylate; 4-hydroxybutyl methacrylate;

reactant | 2-hydroxybutyl methacrylate | C(C(=C)C)(=O)OCC(CC)O | C8H14O3
reactant | 4-hydroxybutyl methacrylate | C(C(=C)C)(=O)OCCCCO | C8H14O3
product | 2,3-dihydroxypropyl methacrylate | C(C(=C)C)(=O)OCC(CO)O | C7H12O4
